US05728835
4-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-hydroxyphenyl)benzamide
4-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methoxyphenyl)benzamide (50.0 mg, 0.10 mmol) was dissolved in methylene chloride (3.0 ml) to which was subsequently added a methylene chloride solution (1 ml) of boron tribromide (0.018 ml, 0.19 mmol) at 0° C. After 12 hours of stirring at 0° C. to room temperature, the reaction solution was mixed with saturated sodium bicarbonate aqueous solution and extracted with ethyl acetate. The resulting organic layer was washed with saturated sodium bicarbonate aqueous solution and saturated brine, and dried on anhydrous sodium sulfate. Thereafter, the solvent was distilled off under a reduced pressure, and the resulting residue was purified by a silica gel column chromatography (ethyl acetate-chloroform:methanol=10:1) to obtain 37.3 mg (76.7%) of the title compound in a light yellow amorphous form.

reactant | 4-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methoxyphenyl)benzamide | 0.10 mmol, 50.0 mg | C(C)(=O)NC1=CC=C(C(=O)N(C2=CC(=CC=C2)OC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C30H32FN3O4
reactant | boron tribromide | 0.19 mmol, 0.018 ml | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 3.0 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 4-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-hydroxyphenyl)benzamide | 37.3 mg, 76.7% | C(C)(=O)NC1=CC=C(C(=O)N(C2=CC(=CC=C2)O)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C29H30FN3O4
